US04981847
To a solution of methyl (E)-3-[2-(4-imidazolylmethylamino)phenyl]propenoate (0.7 g) in methanol (7 ml) was added 1N sodium hydroxide aqueous solution (3 ml) and the mixture was stirred for 20 hours. After removal of methanol from the reaction mixture, water was added to the residue. The mixture was adjusted to pH 6 with acetic acid. The mixture was salted out and extracted with ethyl acetate 8 times. The extracts were combined and dried over magenessium sulfate. Removal of the solvent afforded an orange oil, which was dissolved in methanol (5 ml). To the solution was added an ethereal solution of hydrogen chloride. The resultant precipitate was collected by filtration, washed with ether twice and dried to give (E)-3-[2-(4-imidazolylmethylamino)phenyl]propenoic acid dihydrochloride (0.29 g).

reactant | methyl (E)-3-[2-(4-imidazolylmethylamino)phenyl]propenoate | 0.7 g | N1C=NC(=C1)CNC1=C(C=CC=C1)/C=C/C(=O)OC | C14H15N3O2
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | (E)-3-[2-(4-imidazolylmethylamino)phenyl]propenoic acid dihydrochloride | 0.29 g | Cl.Cl.N1C=NC(=C1)CNC1=C(C=CC=C1)/C=C/C(=O)O | InChI=1S/C13H13N3O2.2ClH/c17-13(18)6-5-10-3-1-2-4-12(10)15-8-11-7-14-9-16-11;;/h1-7,9,15H,8H2,(H,14,16)(H,17,18);2*1H/b6-5+;;
